US09107964B2
578 mg (1.64 mmol equivalents) of 5-bromomethyl-5-(t-butyldimethylsiloxymethyl)-2,2-dimethyl-1,3-dioxane was dissolved in 10 mL of dimethylformamide, 186 mg (1.64 mmol equivalents) of 2-nitroimidazole and 680 mg (4.92 mmol equivalents) of potassium carbonate were added thereto, and the mixture was heated to 100° C. for 18 hours. After completion of the reaction, the reaction liquid was cooled to room temperature (25° C.), a saturated aqueous solution of ammonium chloride and water were added thereto, and the mixture was extracted three times with ethyl acetate. The combined ethyl acetate layers were washed with water and brine, then dried with anhydrous magnesium sulfate and subsequently concentrated under vacuum, and the obtained crude product was purified by silica gel column chromatography (eluent: hexane/ethyl acetate (v/v)=3/1) to give 363 mg (0.942 mmol equivalents) of 5-(t-butyldimethylsiloxymethyl)-2,2-dimethyl-5-[(2-nitro-1H-imidazol-1-yl)methyl]-1,3-dioxane.

reactant | 5-bromomethyl-5-(t-butyldimethylsiloxymethyl)-2,2-dimethyl-1,3-dioxane | 1.64 mmol, 578 mg | BrCC1(COC(OC1)(C)C)CO[Si](C)(C)C(C)(C)C | C14H29BrO3Si
reactant | 2-nitroimidazole | 1.64 mmol, 186 mg | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | potassium carbonate | 4.92 mmol, 680 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-(t-butyldimethylsiloxymethyl)-2,2-dimethyl-5-[(2-nitro-1H-imidazol-1-yl)methyl]-1,3-dioxane | 0.942 mmol, 363 mg | O([Si](C)(C)C(C)(C)C)CC1(COC(OC1)(C)C)CN1C(=NC=C1)[N+](=O)[O-] | C17H31N3O5Si
